US08012974B2
Racemic trans 3-amino-cyclohexyl-methanol (0.65 g, 3.925 mmol) was taken up in toluene (25 mL) and triethylamine (1.6 mL, 11.5 mmol). Phthalic anhydride (0.581 g, 3.925 mmol) was added and the resulting mixture was stirred at reflux overnight. The reaction mixture was allowed to cool to RT before being washed with H2O. The aqueous layer was extracted with EtOAc. The combined organic layers were washed with brine, dried (Na2SO4), filtered, and evaporated. The remaining solid was purified by SiO2 chromatography (40 g SiO2, hexanes/EtOAc 0 to 40%) to give 0.749 g of racemic trans-2-(3-hydroxymethyl-cyclohexyl)-isoindole-1,3-dione as a white solid (73% yield).

reactant | Racemic trans 3-amino-cyclohexyl-methanol | 3.925 mmol, 0.65 g | N[C@@H]1C[C@H](CCC1)CO | C7H15NO
reactant | triethylamine | 11.5 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | Phthalic anhydride | 3.925 mmol, 0.581 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
product | racemic trans-2-(3-hydroxymethyl-cyclohexyl)-isoindole-1,3-dione | 0.749 g, 73% yield | OC[C@@H]1C[C@H](CCC1)N1C(C2=CC=CC=C2C1=O)=O | C15H17NO3
